US03974145
A mixture of 1.9 g of N1 -(p-chlorobenzoyl)-3,4-methylenedioxyphenylhydrazine hydrochloride and 20 g of levulinic acid was heated for 1 hour at 55° - 60°C and for 3 hours at 80° - 90°C. The reaction mixture was cooled to a room temperature, and poured into 200 ml of water. The precipitates were collected by filtration and washed with water. The crystals obtained by twice recrystallizing from acetone-water (5 : 1) gave 1.19 g of 1-(p-chlorobenzoyl)-2-methyl-5,6-methylenedioxy-3-indolylacetic acid having a melting point of 217° - 218°C.

reactant | N1 -(p-chlorobenzoyl)-3,4-methylenedioxyphenylhydrazine hydrochloride | 1.9 g | Cl.ClC1=CC=C(C(=O)N(N)C2=CC3=C(C=C2)OCO3)C=C1
reactant | levulinic acid | 20 g | C(CCC(=O)C)(=O)O | C5H8O3
solvent | water | 200 ml | O | H2O
product | 1-(p-chlorobenzoyl)-2-methyl-5,6-methylenedioxy-3-indolylacetic acid | 1.19 g | ClC1=CC=C(C(=O)N2C(=C(C3=CC4=C(C=C23)OCO4)CC(=O)O)C)C=C1 | C19H14ClNO5
